US06200998B1
Step A: Preparation of 1-Diazo-4-phenyl-2-butanone.
A solution of hydrocinnamoyl chloride (10.00 grams; 100 mL dry diethyl ether) was carefully added to freshly prepared etherial diazomethane (85.6 grams Diazald; 100 mL dry ethyl ether) at 0° C. The reaction was held at 0° C. until outgassing subsided (15 minutes), then raised to room temperature (15 minutes). Acetic acid (5.0 mL) was added and the reaction partitioned (pH4 pthalate buffer and methyl tert-butyl ether). The organic was washed with water, dried over MgSO4 and filtered to provide, upon evaporation, an oil containing the title compound. The crude product was used with no further purification or delay.

reactant | hydrocinnamoyl chloride | 100 mL, 10.00 grams | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | diazomethane | 100 mL, 85.6 grams | [N+](=[N-])=C | CH2N2
solvent | Acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
product | 1-Diazo-4-phenyl-2-butanone | [N+](=[N-])=CC(CCC1=CC=CC=C1)=O | C10H10N2O
